US06486153B1
b) 1-tert-Butoxycarbonyl-3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole
To a solution of 3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole (3.0 g, 12.4 mmol) in anhydrous dichloromethane under an atmosphere of nitrogen was added di-tert-butyl dicarbonate (3.0 g, 13.6 mmol) followed by 4-dimethylaminopyridine (1.66 g, 13.6 mmol). On complete addition the reaction mixture was stirred at room temperature for 3 hours then evaporated in vacuo. The residue was purified by column chromatography on silica eluting with 2% CH3OH in CH2Cl2+0.5% 0.88 ammonia to give the title compound (3.6 g, 85%); δH (360 MHz; CDCl3) 1.00 (3H, d, J 6.5 Hz, —CH3), 1.43-1.52 (2H, m, aliphatics), 1.59-1.65 (4H, m, aliphatics), 1.67 (9H, S, O2C(CH3)3), 2.54 (1H, dd, J 13.9 and 9.4 Hz, indole CHAHB), 2.59-2.65 (4H, m, aliphatics), 2.88-2.97 (1H, m, indole CHAHBCH), 3.01 (1H, dd, J 13.9 and 3.7 Hz, indole CHAHB), 7.19-7.34 (2H, m, indole H5+H6), 7.43 (1H, s, indole H2), 7.53 (1H, d, J=7.7 Hz, indole H4), 8.10 (1H, broad doublet, indole H7); m/z (ES+) 343 (M++H, 100%).

reactant | 3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole | 12.4 mmol, 3.0 g | N1(CCCCC1)C(CC1=CNC2=CC=CC=C12)C | C16H22N2
reactant | di-tert-butyl dicarbonate | 13.6 mmol, 3.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 13.6 mmol, 1.66 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-tert-Butoxycarbonyl-3-[2-(piperidin-1-yl)prop-1-yl]-1H-indole | 3.6 g, 85% | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC(C)N1CCCCC1 | C21H30N2O2
